US06355653B1
2,7-Diphenyl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine
The title compound, mp. 214-216° C., was prepared in accordance with the general method of example 22 from 3-benzenesulfonylmethyl-5-phenyl-1H-[1,2,4]triazole and cinnamonitrile.

reactant | 3-benzenesulfonylmethyl-5-phenyl-1H-[1,2,4]triazole | C1(=CC=CC=C1)S(=O)(=O)CC1=NNC(=N1)C1=CC=CC=C1 | C15H13N3O2S
reactant | cinnamonitrile | C(C=CC1=CC=CC=C1)#N | C9H7N
product | 2,7-Diphenyl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | C1(=CC=CC=C1)C1=NN2C(C=C(C=C2N)C2=CC=CC=C2)=N1 | C18H14N4
